US07247626B2
8—Bromo-N-cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine (0.20 g, 0.50 mmol) was dissolved in N,N-dimthylformamide. To this solution was added dichlorobis(triphenylphosphine)palladium (II] (70 mg, 0.2 equiv), anhydrous sodium carbonate (105 mg, 2 equiv), 2-fluoro-4-pyridinylboronic acid (91 mg, 1.3 equiv) and a few drops of water. The reaction mixture was heated at 100° C. for 12 hours, at which time no starting material remained in the reaction mixture. Ethyl acetate and water were added to the reaction mixture. The phases were separated and the organic phase was washed with water, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (ethyl acetate:hexane 1:1) gave 70 mg (33%) of N-cyclopentyl-8-(2-fluoro-4pyridinyl)-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine as a white foam. 1H-NMR (CDCl3): δ 8.10 (d, 1H), 7.60 (m, 2H), 7.52 (m, 3H), 7.37 (m, 1H), 7.29 (s, 1H), 6.55 (d, 1H), 4.63 (m, 1H), 2.66 (s, 3H), 2.3–2.1 (m, 2H), 2.0–1.6 (m, 6H);F-NMR (CDCl3): δ −69.01; MS m/z 421 (M+1).

reactant | 8—Bromo-N-cyclopentyl-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine | 0.50 mmol, 0.20 g | BrC=1C(=NN2C1N=C(N=C2NC2CCCC2)SC)C2=CC=CC=C2 | C17H18BrN5S
reactant | sodium carbonate | 105 mg, 2 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluoro-4-pyridinylboronic acid | 91 mg, 1.3 equiv | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | water | a few drops | O | H2O
catalyst | dichlorobis(triphenylphosphine)palladium | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
product | N-cyclopentyl-8-(2-fluoro-4pyridinyl)-2-(methylsulfanyl)-7-phenylpyrazolo[1,5-a][1,3,5]triazin-4-amine | 70 mg, 33% | C1(CCCC1)NC1=NC(=NC=2N1N=C(C2C2=CC(=NC=C2)F)C2=CC=CC=C2)SC | C22H21FN6S
